US05252282
93.1 g(0.48 mol) of dimethyl terephthalate, 10.68 g(0.02 mol) of dimethyl 6,6'-(isophthaloyl-dioxy)-di-2,2'-naphthoate, 68.2 g(1.1 mol) of ethylene glycol were polymerized in the presence of 87 mg of magnesium acetate tetrahydrate and 34 mg of cobalt acetate tetrahydrate. At the temperature of 250° C., 45 mg of antimony trioxide and 300 mg of 3,5-di-tert.-butyl-4-hydroxy anisole were added. The resulting polymer had an intrinsic viscosity of 0.55 dl/g, a Tg of 81° C. and a Tm of 232° C.

reactant | ethylene glycol | 1.1 mol, 68.2 g | C(CO)O | C2H6O2
reactant | magnesium acetate tetrahydrate | 87 mg | O.O.O.O.C(C)(=O)[O-].[Mg+2].C(C)(=O)[O-]
reactant | antimony trioxide | 45 mg | O=[Sb]O[Sb]=O
reactant | 3,5-di-tert.-butyl-4-hydroxy anisole | 300 mg | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)OC | C15H24O2
catalyst | cobalt acetate tetrahydrate | 34 mg | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
product | dimethyl terephthalate | 0.48 mol, 93.1 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
